US08236806B2
1-(3,4-dimethylphenyl)-4-(3-(1-phenyl-5-propyl-1H-pyrazol-3-yl)propyl)piperazine (Compound 149)
159 mg (85%) of target compound was obtained by using a method same as in Example 1 by using 3-(1-phenyl-5-propyl-1H-pyrazol-3-yl)propanal (100 mg, 0.413 mmol), 1-(3,4-dimethylphenyl)piperazine (79 mg, 0.413 mmol), DIPEA (0.110 mL, 0.620 mmol) and NaBH(OAc)3 (263 mg, 1.239 mmol).

reactant | 3-(1-phenyl-5-propyl-1H-pyrazol-3-yl)propanal | 0.413 mmol, 100 mg | C1(=CC=CC=C1)N1N=C(C=C1CCC)CCC=O | C15H18N2O
reactant | 1-(3,4-dimethylphenyl)piperazine | 0.413 mmol, 79 mg | CC=1C=C(C=CC1C)N1CCNCC1 | C12H18N2
reactant | DIPEA | 0.620 mmol, 0.110 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 1.239 mmol, 263 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(3,4-dimethylphenyl)-4-(3-(1-phenyl-5-propyl-1H-pyrazol-3-yl)propyl)piperazine | CC=1C=C(C=CC1C)N1CCN(CC1)CCCC1=NN(C(=C1)CCC)C1=CC=CC=C1 | C27H36N4
